US07973061B2
2-[(4-Trifluoromethoxy-benzylamino)-methyl]-thiazole-4-carboxylic acid [2-(3-chloro-phenyl)-ethyl]-amide hydrochloride:
2-Aminomethyl-thiazole-4-carboxylic acid [2-(3-chlorophenyl)ethyl]amide hydrochloride (0.10 g, 0.3 mmol) and 4-(trifluoromethoxy)benzyl amine (0.06 g, 0.3 mmol) were mixed with sodium cyanoborohydride (1 M in THF, 0.6 mL), ethanol (5 mL), and a catalytic amount of acetic acid (2 drops). The mixture was heated at reflux for 24 hours. The mixture was concentrated in vacuo, diluted with water and extracted with methylene chloride. The combined organic layers were washed with sodium carbonate and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude amine was purified by flash chromatography (EtOAc/hexane), treated with HCl in dioxane, and concentrated in vacuo to afford the title compound: 1H NMR (400 MHz, d6-DMSO): 9.83 (br s, 2H), 8.43 (t, 1H), 8.32 (s, 1H), 7.66 (d, 2H), 7.44 (d, 2H), 7.25 (m, 4H), 4.58 (s, 2H), 4.37 (s, 2H), 3.53 (m, 2H), 2.86 (t, 2H); MS (ESI-LCMS) for C21H20ClF3N3O2S: 470 (MH+).

reactant | 2-Aminomethyl-thiazole-4-carboxylic acid [2-(3-chlorophenyl)ethyl]amide hydrochloride | 0.3 mmol, 0.10 g | Cl.ClC=1C=C(C=CC1)CCNC(=O)C=1N=C(SC1)CN
reactant | 4-(trifluoromethoxy)benzyl amine | 0.3 mmol, 0.06 g | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | sodium cyanoborohydride | 1 M, 0.6 mL | C(#N)[BH3-].[Na+]
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-[(4-Trifluoromethoxy-benzylamino)-methyl]-thiazole-4-carboxylic acid [2-(3-chloro-phenyl)-ethyl]-amide hydrochloride | Cl.ClC=1C=C(C=CC1)CCNC(=O)C=1N=C(SC1)CNCC1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C21H19ClF3N3O2S.ClH/c22-16-3-1-2-14(10-16)8-9-27-20(29)18-13-31-19(28-18)12-26-11-15-4-6-17(7-5-15)30-21(23,24)25;/h1-7,10,13,26H,8-9,11-12H2,(H,27,29);1H
